US08076336B2
1-(3-tert-Butyl-4,5-diethoxyphenyl)ethanone
1-(3-tert-Butyl-4-ethoxy-5-hydroxyphenyl)ethanone (O3.010; 470 mg) and ethyl iodide (193 μl) were dissolved in DMF (6.2 ml), and sodium hydride (57 mg) was added. After stirring at RT for 0.5 h, the DMF was drawn off and the residue was taken up in EA, washed with water, dried and concentrated. The residue was purified using silica gel (40 g cartridge, n-heptane/EA gradient 0-30% within 60 min). 420 mg of the title compound were obtained.

reactant | 1-(3-tert-Butyl-4-ethoxy-5-hydroxyphenyl)ethanone | 470 mg | C(C)(C)(C)C=1C=C(C=C(C1OCC)O)C(C)=O | C14H20O3
reactant | ethyl iodide | 193 μl | C(C)I | C2H5I
reactant | sodium hydride | 57 mg | [H-].[Na+]
solvent | DMF | 6.2 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-(3-tert-Butyl-4,5-diethoxyphenyl)ethanone | 420 mg | C(C)(C)(C)C=1C=C(C=C(C1OCC)OCC)C(C)=O | C16H24O3
